reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4](=[C:5]([H:12])[H:13])[C:7]#[C:6]1)[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8],52.85386942238939
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[C:6](#[N:7])[H:11].[N:1](=[C:2](/[O:3][C:4](=[C:5]([H:12])[H:13])[H:10])[H:9])\[H:8],105.139926924769
[C-:1]([N:2]([c:3]1[n:4]([H:8])[n:5]([H:12])[c+:6]([H:13])[c:7]1[H:14])[H:11])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],18.279385372505132
[C:1](=[C:2]=[O:3])([H:4])[H:6].[H:5][H:7]>>[C:1]([C:2](=[O:3])[H:7])([H:4])([H:5])[H:6],53.261835957473295
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]1[C:4]([C:5]([O:6][H:10])([H:13])[H:14])([H:11])[H:12],76.7673746098605
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:4](\[C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])[H:15])[H:11])([H:8])([H:9])[H:10].[C:3]([H:12])([H:13])([H:14])[H:16],111.37432380708599
[C:1]([N:2]([C@@:3]12[O:4][N:7]([H:14])[C@:6]1([H:13])[N:5]2[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],22.213293948393
[C-:2](=[O+:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])[H:10].[C:1]([H:7])([H:8])([H:9])[H:11]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],15.321443340843501
[C:1]([O:2][H:16])([H:7])([H:8])[H:9].[C:3]1([H:10])([H:11])[C@:4]([C:5]([H:13])([H:14])[H:15])([H:12])[O:6]1>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],54.4097934064459
[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:11])([H:14])[H:15])([H:12])[H:13])([H:7])([H:8])[H:9].[H:10][H:16]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],53.36265224427101
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:4][H:14])=[C:5]([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]=[N:7][H:13],101.951065102176
[C:1]([C+:2]=[C:5]=[N-:6])([H:7])([H:8])[H:9].[C:3]([O:4][H:13])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9],32.14515412111419
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])[H:10])([H:8])[H:9].[C:3]([H:7])([H:11])([H:12])[H:13],114.869705253888
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([C:5]([H:9])([H:10])[H:11])[O:6]1)\[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],78.61362950199029
[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9].[N:3](=[C:4]=[O:5])[C:6]([H:13])([H:14])[H:15],90.13255524437332
[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([N:4]([C:5][O:6][H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],73.8085298672106
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[C:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:4][H:13])=[C:5]=[C:6]([H:12])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],69.1375847157059
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3][C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:13])([H:14])([H:15])[H:16],92.9444982739571
[C:1]([N:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](/[C:4]([H:12])([H:13])[H:14])[H:11])([H:7])([H:8])[H:9].[C:5]=[N:6][H:10],46.3439668462275
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7]>>[O:1]1[C@@:2]2([H:7])[C:3](=[O:4])[C:5]2=[C:6]1[H:8],69.17755703511371
[C:1]([C:2]([C:3](/[C:4](=[C:5](\[O:6][H:15])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],60.4106151032507
[C:1]([N:2]([C:5]1=[N:6][C@@:3]1([C:4]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9],69.8119007267167
[O:1]([C:2][C:3]([C:4]([O:5][H:11])([H:7])[H:10])([H:8])[H:9])[H:6]>>[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6],23.409618754027797
[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C@:2]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[O:3]1,98.27108931708379
